US08030334B2
4-Methoxy-3-ethynyl-pyridine and 4-cyano-6-iodoaniline are processed according to the method described in Example 86 to give 2-(4-methoxy-pyridin-3-yl)-1H-indole-5-carbonitrile. 2-(4-Methoxy-pyridin-3-yl)-1H-indole-5-carbonitrile is purified by HPLC using an Xbridge Shield RP18 with a gradient of acetonitrile in 0.1% NH4OH. 1H NMR (400 MHz, DMSO-d6) δ ppm 4.04 (s, 3H), 7.14 (d, J=1.3 Hz, 1H), 7.25 (d, J=5.8 Hz, 1H), 7.47 (dd, J=8.5, 1.6 Hz, 1H), 7.61 (d, J=8.3 Hz, 1H), 8.11 (s, 1H), 8.47 (d, J=5.8 Hz, 1H), 8.91 (s, 1H), 11.91 (br. s., 1H). HRMS (ESI) m/z 250.0968 [(M+H)+ calcd for C16H12N3O: 250.0980].

reactant | 4-Methoxy-3-ethynyl-pyridine | COC1=C(C=NC=C1)C#C | C8H7NO
reactant | 4-cyano-6-iodoaniline | C(#N)C1=CC=C(N)C(=C1)I | C7H5IN2
product | 2-(4-methoxy-pyridin-3-yl)-1H-indole-5-carbonitrile | COC1=C(C=NC=C1)C=1NC2=CC=C(C=C2C1)C#N | C15H11N3O
